US06844345B2
b) (S)-4-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
To a solution of 0.700 g ethyl 6-(trifluoromethyl)indole-2-carboxylate in 7 ml DMF was added 0.13 g sodium hydride (55% in mineral oil) and the mixture was stirred at room temperature for 30 min. To the resulting solution was added 1.30 g (R)-5-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester and the mixture was stirred at room temperature for 18 h. The reaction mixture was distributed between 10% aqueous citric acid and dichloromethane and the organic phase was purified by chromatography on silica gel with dichloromethane as eluant. The product (1.15 g) was taken up in 11 ml TFA was stirred at 0° C. for 45 min. The solvent was evaporated and the residue was taken up in 10 ml methanol. To the resulting solution was added 1.00 g potassium carbonate and the mixture was stirred at room temperature for 3 h. The reaction mixture was purified by chromatography on silica gel with ethyl acetate to yield 0.36 g of the tide compound (m.p.: 143-144° C.).

reactant | ethyl 6-(trifluoromethyl)indole-2-carboxylate | 0.700 g | FC(C1=CC=C2C=C(NC2=C1)C(=O)OCC)(F)F | C12H10F3NO2
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | (R)-5-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 1.30 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C(O[SiH](C)C)C(C(C)C)(C)C)(=O)=O | C16H33NO6SSi
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-4-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-7-trifluoromethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.36 g | C[SiH](OC([C@@H]1CNC(C=2N1C=1C=C(C=CC1C2)C(F)(F)F)=O)C(C(C)C)(C)C)C | C21H29F3N2O2Si
